2153-04-15 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2153-4-15**] 12:00 AM
   - Switched to PSV, slight increase in pCO2, able to wean pO2
   - Able to wean pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-13**] 11:07 PM
   Cefipime - [**2153-4-14**] 06:00 PM
   Vancomycin - [**2153-4-14**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2153-4-14**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-14**] 11:30 PM
   Midazolam (Versed) - [**2153-4-15**] 04:00 AM
   Fentanyl - [**2153-4-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-15**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.6
   HR: 109 (90 - 110) bpm
   BP: 126/57(79) {86/46(59) - 130/58(82)} mmHg
   RR: 8 (8 - 26) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 4 (4 - 10)mmHg
   Total In:
                                                                  4,080 mL
                                                                    138 mL
   PO:
   TF:
   IVF:
                                                                  3,990 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    500 mL
   Urine:
                                                                  1,030 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,050 mL
                                                                   -362 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 873 (758 - 873) mL
   PS : 8 cmH2O
   RR (Set): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 16
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: 7.25/51/99.[**Numeric Identifier 126**]/20/-5
   Ve: 7.1 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI. OP clear, no exudates or
   ulceration.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, does not follow commands
   Labs / Radiology
   135 K/uL
   10.5 g/dL
   110 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   22 mg/dL
   112 mEq/L
   138 mEq/L
   30.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2153-4-14**]  12:20 AM
                             [**2153-4-14**]  01:50 AM
                             [**2153-4-14**]  03:15 AM
                             [**2153-4-14**]  04:32 AM
                             [**2153-4-14**]  06:38 AM
                             [**2153-4-14**]  06:47 PM
                             [**2153-4-14**]  10:57 PM
                             [**2153-4-14**]  11:12 PM
                             [**2153-4-15**]  03:55 AM
                             [**2153-4-15**]  05:59 AM
   WBC
   5.0
   9.4
   Hct
   32.5
   30.8
   Plt
   181
   135
   Cr
   0.9
   1.0
   TCO2
   20
   21
   21
   21
   20
   23
   24
   23
   Glucose
   103
   110
   Other labs: PT / PTT / INR:16.8/38.8/1.5, ALT / AST:18/37, Alk Phos / T
   Bili:41/0.6, Amylase / Lipase:/47, Differential-Neuts:52.0 %, Band:18.0
   %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, LDH:291
   IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with likely sepsis secondary to pneumonia.
   .
   # Respiratory failure:  intubated for hypoxemic respiratory failure.
   LIkely secondary to pneumonia and/or ARDS. Currently on PSV but appears
   to be tiring.
   - sedate and AC ventilate
   - ARDsNET tidal volumes
   - arterial line
   - investigate for infectious source as below
   .
   # Sepsis: Bandemia and leukopenia.  Given CT with multifocal
   infiltrates, most likely an atypical pneumonia. Acuity of process is
   concerning for a bacterial process, however.
   - IVF and levophed as needed with goal UOP >30cc/h, goal CVP 10-12
   - follow lactate (currently increased, will give an additional 1 L NS
   and continue to bolus)
   - UA and cx
   - sputum cx
   - stool cx
   - f/u blood cx
   - urine legionella
   - vanc/zosyn/levaquin
   - legionella urinary antigen
   .
   # Nausea/vomitting:  most likley secondary to systemic process given
   absence of pain and course of symptoms, however, will check abdominal
   labs
   - LFTs, lipase
   .
   # Hct drop: from 35 to 27, likely secondary to fluids
   .
   # hyperlipidemia
   - holding atorvastatin while acutely ill
   .
   # underlying pulmonary process:  saw Dr. [**Last Name (STitle) 206**] as an outpatient. This
   does seem to be a related process given similar distribution.
   - touch base with dr. [**Last Name (STitle) 206**] regarding admission and current
   presentation
   - may need broncoscopic biopsy in the future
   .
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   .
   FEN: NPO, tube feed recs, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continually re-address
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU,
   1. Hypoxic Respiratory failure: Bronchogenic PNA, possibly viral
   despite negative screen, awaiting culture, chronicity unclear given
   previous CT scan. Currently desynchronous on the vent. Given
   leukocytosis and history, high suspicion for Pneumococcus.
   - Trial of PSV followed by ABG
   - Continue Vanc/Zosyn/Levoflox
   - D/C Droplet Precautions
   2. Shock: Improved with hydration, lactate down, still on Norepi
   - Wean Norepi
   - Bolus with NS per CVP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2153-04-15 09:45:00 Physician Attending Progress Note
Chief Complaint: resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84F with little PMH, presents with nausea, diarrhea, pulmonary
   infiltrates, and coag pos staph in sputum; also ARDS:
   24 Hour Events:
   - off pressors
   - on pressurs support but resp acidosis
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-13**] 11:07 PM
   Cefipime - [**2153-4-14**] 06:00 PM
   Vancomycin - [**2153-4-15**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-4-15**] 04:00 AM
   Fentanyl - [**2153-4-15**] 04:00 AM
   Lansoprazole (Prevacid) - [**2153-4-15**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-15**] 08:05 AM
   Other medications:
   fent, sqh, vanco, chlorhex, lansopr, levofox, cef, versed, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-4-15**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.9
   HR: 96 (90 - 110) bpm
   BP: 107/50(68) {88/46(60) - 130/58(82)} mmHg
   RR: 8 (8 - 26) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 9 (4 - 11)mmHg
   Total In:
                                                                  4,080 mL
                                                                    414 mL
   PO:
   TF:
   IVF:
                                                                  3,990 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    585 mL
   Urine:
                                                                  1,030 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,050 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 853 (758 - 873) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 16
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.25/51/99.[**Numeric Identifier 126**]/20/-5
   Ve: 8.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   135 K/uL
   110 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   22 mg/dL
   112 mEq/L
   138 mEq/L
   30.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2153-4-14**]  12:20 AM
                             [**2153-4-14**]  01:50 AM
                             [**2153-4-14**]  03:15 AM
                             [**2153-4-14**]  04:32 AM
                             [**2153-4-14**]  06:38 AM
                             [**2153-4-14**]  06:47 PM
                             [**2153-4-14**]  10:57 PM
                             [**2153-4-14**]  11:12 PM
                             [**2153-4-15**]  03:55 AM
                             [**2153-4-15**]  05:59 AM
   WBC
   5.0
   9.4
   Hct
   32.5
   30.8
   Plt
   181
   135
   Cr
   0.9
   1.0
   TCO2
   20
   21
   21
   21
   20
   23
   24
   23
   Glucose
   103
   110
   Other labs: PT / PTT / INR:16.8/38.8/1.5, ALT / AST:18/37, Alk Phos / T
   Bili:41/0.6, Amylase / Lipase:/47, Differential-Neuts:52.0 %, Band:18.0
   %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, LDH:291
   IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: cxr: none today
   Microbiology: sputum: coag + staph
   Assessment and Plan
   84F with little PMH, presents with nausea, diarrhea, pulmonary
   infiltrates, and coag pos staph in sputum. Concern for staph aureus
   pneumonia. Worsening respiratory acidosis noted with pressure support,
   although Aa gradient appears to be improved. He does remain febrile,
   although BP has improved over time.
   For now will switch to assist control and ventilate to higher minute
   ventilation. Will switch from midazolam to propofol to try to prevent
   vent dyssynchrony (previoiusly dyssynch with assist control).
   Will stop levofloxacin and continue other abx.
   ICU Care
   Nutrition: start tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI (intubated)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-04-16 06:01:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   - dysynchronous on the vent requiring more sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-13**] 11:07 PM
   Cefipime - [**2153-4-15**] 06:16 PM
   Vancomycin - [**2153-4-15**] 08:28 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2153-4-15**] 08:05 AM
   Propofol - [**2153-4-15**] 02:22 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-15**] 11:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-16**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 90 (86 - 105) bpm
   BP: 131/54(78) {92/41(57) - 152/63(90)} mmHg
   RR: 18 (8 - 27) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  1,182 mL
                                                                    335 mL
   PO:
   TF:
                                                                    209 mL
                                                                    159 mL
   IVF:
                                                                    923 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    245 mL
   Urine:
                                                                  1,175 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 853 (853 - 853) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.35/45/99.[**Numeric Identifier 508**]/24/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI. OP clear, no exudates or
   ulceration.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, follows commands
   Labs / Radiology
   129 K/uL
   9.4 g/dL
   127 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   137 mEq/L
   28.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2153-4-14**]  06:47 PM
                             [**2153-4-14**]  10:57 PM
                             [**2153-4-14**]  11:12 PM
                             [**2153-4-15**]  03:55 AM
                             [**2153-4-15**]  05:59 AM
                             [**2153-4-15**]  10:19 AM
                             [**2153-4-15**]  06:01 PM
                             [**2153-4-15**]  06:21 PM
                             [**2153-4-16**]  03:56 AM
                             [**2153-4-16**]  04:24 AM
   WBC
   9.4
   10.4
   11.3
   Hct
   30.8
   29.6
   28.4
   Plt
   135
   139
   129
   Cr
   1.0
   0.8
   0.8
   TCO2
   20
   23
   24
   23
   23
   24
   26
   Glucose
   110
   107
   127
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:17/29, Alk Phos / T
   Bili:48/0.3, Amylase / Lipase:/47, Differential-Neuts:52.0 %, Band:18.0
   %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:291
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with likely Staph pneumonia.
   .
   # Respiratory failure:  intubated for hypoxemic respiratory failure,
   secondary to pneumonia and/or ARDS. Required increased sedation
   yesterday for dyssynchrony with the ventilator. RSBI 27 this morning,
   more synchronous now. ABG this morning was 7.35/45/100.
   - SBT in a few hours; will try to extubate today
   - treat pneumonia as below
   # Pneumonia: sputum cx grew out coagulase-positive Staphylococcus
   aureus. Blood cx has been negative to date. However, WBC is still
   trending up slowly, and patient continues to have low-grade fevers;
   therefore, will continue empiric GNR coverage as well.
   - continue vancomycin and cefepime
   - f/u final sputum and blood cultures
   .
   # Hct drop: Hct 28.4 today, down from 29.6 yesterday and from 35 on
   admission, likely secondary to fluids. No active sign of bleeding.
   - monitor closely
   .
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   .
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   .
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will re-address re-intubation
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   ------ Protected Section ------
   Addendum after rounds:  we will diurese with 40 mg IV lasix in
   preparation for extubation, likely tomorrow
   ------ Protected Section Addendum Entered By:[**Name (NI) 1125**] [**Last Name (NamePattern1) 4932**], MD
   on:[**2153-4-16**] 09:04 ------

2153-04-16 09:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo male w/ severe sepsis due to Staph aureus pna.
   24 Hour Events:
   no events
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-13**] 11:07 PM
   Cefipime - [**2153-4-16**] 06:15 AM
   Vancomycin - [**2153-4-16**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2153-4-15**] 02:22 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-16**] 08:00 AM
   Other medications:
   lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-16**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 92 (86 - 105) bpm
   BP: 135/56(84) {92/41(57) - 152/63(90)} mmHg
   RR: 19 (8 - 27) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 8 (4 - 9)mmHg
   Total In:
                                                                  1,182 mL
                                                                    702 mL
   PO:
   TF:
                                                                    209 mL
                                                                    159 mL
   IVF:
                                                                    923 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    345 mL
   Urine:
                                                                  1,175 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.35/45/99.[**Numeric Identifier 508**]/24/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : end-exp)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   129 K/uL
   127 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   137 mEq/L
   28.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2153-4-14**]  06:47 PM
                             [**2153-4-14**]  10:57 PM
                             [**2153-4-14**]  11:12 PM
                             [**2153-4-15**]  03:55 AM
                             [**2153-4-15**]  05:59 AM
                             [**2153-4-15**]  10:19 AM
                             [**2153-4-15**]  06:01 PM
                             [**2153-4-15**]  06:21 PM
                             [**2153-4-16**]  03:56 AM
                             [**2153-4-16**]  04:24 AM
   WBC
   9.4
   10.4
   11.3
   Hct
   30.8
   29.6
   28.4
   Plt
   135
   139
   129
   Cr
   1.0
   0.8
   0.8
   TCO2
   20
   23
   24
   23
   23
   24
   26
   Glucose
   110
   107
   127
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:17/29, Alk Phos / T
   Bili:48/0.3, Amylase / Lipase:/47, Differential-Neuts:52.0 %, Band:18.0
   %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:291
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Microbiology: Sputum- coag pos staph
   Assessment and Plan
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   1. Resp failure- likely due to Staph pna. Some underlying small airways
   disease on prior CT scan. Failing on removal of PEEP today during PSV
   wean
   -considering 7L positive [**Last Name (LF) **], [**First Name3 (LF) **] diurese for goal CVP 3-5 per FACTT
   -cont txing pna as below
   -assess MS on minimal sedation
   -touch base w/ family about reintubation
   2. Septic shock- shock now resolved, underlying coag pos staph in
   sputum
   -cont vanco, dc cefepime
   3. AAA- f/u on extubation
   ICU Care
   Nutrition:
   Comments: resume tf
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize:
   84 yo man with severe sepsis/staph PNA.  Slow improvement.   Did SBT
   this morning and looks slighly uncomfortable with tachycardia and
   HOTN.  Exam notable for increased respiratory effort.  Diminished BS
   b/l.
   A/P
   Respiratory failure;  Will need to be better optimized before
   attempting extubation.  Will diurese.
   Septic Shock:  improved.
   CC 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-16**] 11:48 ------

2153-04-17 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SBT in AM, RSBI low but looked very uncomfortable
   - more comfortable on PSV 5/5 for the next ~8 hours, but looking more
   tired, tachypneic and tachycardic, O2 Sat still good-->back on AC for
   the night
   - put out >2 L urine to 40 mg IV lasix (and CVP remained [**4-20**]), but
   persistently lots of secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-16**] 06:15 AM
   Vancomycin - [**2153-4-16**] 08:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-16**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-17**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.7
   HR: 96 (89 - 109) bpm
   BP: 148/62(92) {91/48(66) - 171/78(111)} mmHg
   RR: 27 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 4 (3 - 11)mmHg
   Total In:
                                                                  1,288 mL
                                                                    219 mL
   PO:
   TF:
                                                                    159 mL
   IVF:
                                                                  1,129 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    515 mL
   Urine:
                                                                  3,210 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,922 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/38/96.[**Numeric Identifier 181**]/26/2
   Ve: 11.5 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI. OP clear, no exudates or
   ulceration.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, follows commands
   Labs / Radiology
   153 K/uL
   10.2 g/dL
   118 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.2 mEq/L
   22 mg/dL
   106 mEq/L
   142 mEq/L
   30.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2153-4-15**]  03:55 AM
                             [**2153-4-15**]  05:59 AM
                             [**2153-4-15**]  10:19 AM
                             [**2153-4-15**]  06:01 PM
                             [**2153-4-15**]  06:21 PM
                             [**2153-4-16**]  03:56 AM
                             [**2153-4-16**]  04:24 AM
                             [**2153-4-16**]  09:27 AM
                             [**2153-4-17**]  05:35 AM
                             [**2153-4-17**]  05:36 AM
   WBC
   10.4
   11.3
   9.9
   Hct
   29.6
   28.4
   30.0
   Plt
   139
   129
   153
   Cr
   0.8
   0.8
   0.8
   TCO2
   24
   23
   23
   24
   26
   27
   28
   Glucose
   107
   127
   118
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:17/29, Alk Phos / T
   Bili:48/0.3, Amylase / Lipase:/47, Differential-Neuts:52.0 %, Band:18.0
   %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:291
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with likely Staph pneumonia.
   .
   # Respiratory failure:  intubated for hypoxemic respiratory failure,
   secondary to pneumonia and/or ARDS. Required increased sedation
   yesterday for dyssynchrony with the ventilator. RSBI 27 this morning,
   more synchronous now. ABG this morning was 7.35/45/100.
   - SBT in a few hours; will try to extubate today
   - treat pneumonia as below
   # Pneumonia: sputum cx grew out coagulase-positive Staphylococcus
   aureus. Blood cx has been negative to date. However, WBC is still
   trending up slowly, and patient continues to have low-grade fevers;
   therefore, will continue empiric GNR coverage as well.
   - continue vancomycin and cefepime
   - f/u final sputum and blood cultures
   .
   # Hct drop: Hct 28.4 today, down from 29.6 yesterday and from 35 on
   admission, likely secondary to fluids. No active sign of bleeding.
   - monitor closely
   .
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   .
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   .
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will re-address re-intubation
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU

2153-04-17 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   24 Hour Events:
   tolerated PSV for 8h yest before tiring. this am hemodyn instability
   (HTN and tachy) w/ SBT though RSBI 49.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-16**] 06:15 AM
   Vancomycin - [**2153-4-17**] 08:11 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-16**] 10:00 AM
   Lansoprazole (Prevacid) - [**2153-4-17**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-17**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-17**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 95 (89 - 104) bpm
   BP: 110/50(69) {91/48(66) - 171/78(111)} mmHg
   RR: 20 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 5 (3 - 9)mmHg
   Total In:
                                                                  1,288 mL
                                                                    534 mL
   PO:
   TF:
                                                                    159 mL
   IVF:
                                                                  1,129 mL
                                                                    534 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    765 mL
   Urine:
                                                                  3,210 mL
                                                                    760 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,922 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/44/149/26/6
   Ve: 11.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   153 K/uL
   118 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.2 mEq/L
   22 mg/dL
   106 mEq/L
   142 mEq/L
   30.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2153-4-15**]  05:59 AM
                             [**2153-4-15**]  10:19 AM
                             [**2153-4-15**]  06:01 PM
                             [**2153-4-15**]  06:21 PM
                             [**2153-4-16**]  03:56 AM
                             [**2153-4-16**]  04:24 AM
                             [**2153-4-16**]  09:27 AM
                             [**2153-4-17**]  05:35 AM
                             [**2153-4-17**]  05:36 AM
                             [**2153-4-17**]  09:36 AM
   WBC
   10.4
   11.3
   9.9
   Hct
   29.6
   28.4
   30.0
   Plt
   139
   129
   153
   Cr
   0.8
   0.8
   0.8
   TCO2
   23
   23
   24
   26
   27
   28
   32
   Glucose
   107
   127
   118
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:17/29, Alk Phos / T
   Bili:48/0.3, Amylase / Lipase:/47, Differential-Neuts:52.0 %, Band:18.0
   %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:291
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR- persistent bilat infiltrates, maybe less dense today
   Microbiology: Sputum- MRSA
   Remainder of cx neg
   Assessment and Plan
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   1. Resp failure- likely due to Staph pna. Some underlying small airways
   disease on prior CT scan. Today w/ incr secretions, still w/ TBB +5L,
   also w/ agitation
   -cont diuresis for goal CVP 3-5, TBB another neg 1-2L
   -cont txing pna as below; given fever as below monitor for
   recrudescence
   -assess MS on minimal sedation
   -touch base w/ family about reintubation
   2. Septic shock- shock now resolved
   3. Fevers- monitor for ICU-related fever, no indication to broaden yet
   but will follow repeat pan-culture
   -check LFTs, lipase
   4. AAA- f/u on extubation
   ICU Care
   Nutrition:
   Comments: cont tube feeds today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: will touch base w/ family today
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   84 yo man with septic shock and PNA, and respiratory failure.  Patient
   improved and weaned down on ventilator, but still tachypneic with SBT.
   Has been agitated when waking him up.
   Exam notable for rhoncherous b/s b/l.  Patient sedated, unresponsive.
   No edema
   A/P
   Severe PNA/respiratory failure:  Staph Pna, may take some time to
   improve has he still has significant CXR abnormalities.  Continue
   vanco.  Fevers not unexpected, but pan cultured.  Continue to try and
   diurese, and [**2-17**] trials of SBT per day.
   Septic shock:  resolved off pressors.
   Delirium:  can consider weaning off drips and try only bolus sedation.
   Cc 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-17**] 12:35 ------

2153-04-18 06:54:00 Physician Resident Progress Note
Chief Complaint: - responded well to furosemide 40 mg IV x 1 in a.m.;
   net I/O -1.6L
   - on PSV in a.m.; back on AC overnight to rest
   - fentanyl added as patient looked uncomfortable with pain
   24 Hour Events:
 PAN CULTURE - At [**2153-4-17**] 08:36 AM
 FEVER - 101.7
F - [**2153-4-17**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-16**] 06:15 AM
   Vancomycin - [**2153-4-17**] 08:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2153-4-17**] 08:11 AM
   Furosemide (Lasix) - [**2153-4-17**] 10:19 AM
   Propofol - [**2153-4-17**] 12:14 PM
   Fentanyl - [**2153-4-17**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-18**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.2
C (100.8
   HR: 103 (92 - 116) bpm
   BP: 135/59(84) {93/47(62) - 160/74(100)} mmHg
   RR: 35 (20 - 36) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 4 (3 - 7)mmHg
   Total In:
                                                                  1,689 mL
                                                                    796 mL
   PO:
   TF:
                                                                    350 mL
                                                                    327 mL
   IVF:
                                                                  1,179 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    340 mL
   Urine:
                                                                  3,270 mL
                                                                    340 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,586 mL
                                                                    456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 95%
   ABG: 7.48/42/78.[**Numeric Identifier 181**]/30/6
   Ve: 12.6 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI. OP clear, no exudates or
   ulceration.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, not following commands, sedated
   Labs / Radiology
   197 K/uL
   10.0 g/dL
   158 mg/dL
   0.9 mg/dL
   30 mEq/L
   2.9 mEq/L
   23 mg/dL
   105 mEq/L
   142 mEq/L
   29.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2153-4-16**]  04:24 AM
                             [**2153-4-16**]  09:27 AM
                             [**2153-4-17**]  05:35 AM
                             [**2153-4-17**]  05:36 AM
                             [**2153-4-17**]  09:36 AM
                             [**2153-4-17**]  12:00 PM
                             [**2153-4-17**]  12:08 PM
                             [**2153-4-17**]  06:00 PM
                             [**2153-4-18**]  03:18 AM
                             [**2153-4-18**]  03:50 AM
   WBC
   9.9
   7.5
   Hct
   30.0
   29.5
   Plt
   153
   197
   Cr
   0.8
   0.9
   TCO2
   26
   27
   28
   32
   28
   32
   Glucose
   118
   140
   148
   158
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.5 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia.  Improving today, but
   not tolerating a spontaneous breathing trial.
   # Respiratory failure from Staph PNA:  Initially intubated for hypoxic
   respiratory failure, secondary to MRSA pneumonia. Significantly
   diuresed yesterday but failed SBT today.  Worsening secretions,
   persistently febrile, perhaps the PNA is not just MRSA. Successful
   diuresis with lasix x1
   - Continue Vancomycin
   - Diuresis today goal 1-2L negative: Lasix 40mg IV x1
   - Zyprexa Zydis 5mg NG x1
   - Trial PSV
   - F/U yesterday
s fever work up
   - Sedation with Propofol and bolus Fentanyl
   # Hct drop: Stable
   - Daily Hcts
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will re-address re-intubation with family
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-18**] 02:59 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU while intubated

2153-04-18 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   24 Hour Events:
   no events- tired on PSV yest so switched to A/CV overnight. still w/
   mod yellow secretions on suctioning. agitated w/ sedation hold this am.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-16**] 06:15 AM
   Vancomycin - [**2153-4-18**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-17**] 10:19 AM
   Propofol - [**2153-4-17**] 12:14 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-18**] 08:00 AM
   Fentanyl - [**2153-4-18**] 08:30 AM
   Other medications:
   Peridex, Colace,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-18**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 102 (92 - 116) bpm
   BP: 142/67(94) {93/47(62) - 160/74(100)} mmHg
   RR: 38 (21 - 38) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 3 (3 - 7)mmHg
   Total In:
                                                                  1,689 mL
                                                                  1,236 mL
   PO:
   TF:
                                                                    350 mL
                                                                    496 mL
   IVF:
                                                                  1,179 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    460 mL
   Urine:
                                                                  3,270 mL
                                                                    460 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,586 mL
                                                                    776 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/42/78.[**Numeric Identifier 181**]/30/6
   Ve: 18 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   197 K/uL
   158 mg/dL
   0.9 mg/dL
   30 mEq/L
   2.9 mEq/L
   23 mg/dL
   105 mEq/L
   142 mEq/L
   29.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2153-4-16**]  04:24 AM
                             [**2153-4-16**]  09:27 AM
                             [**2153-4-17**]  05:35 AM
                             [**2153-4-17**]  05:36 AM
                             [**2153-4-17**]  09:36 AM
                             [**2153-4-17**]  12:00 PM
                             [**2153-4-17**]  12:08 PM
                             [**2153-4-17**]  06:00 PM
                             [**2153-4-18**]  03:18 AM
                             [**2153-4-18**]  03:50 AM
   WBC
   9.9
   7.5
   Hct
   30.0
   29.5
   Plt
   153
   197
   Cr
   0.8
   0.9
   TCO2
   26
   27
   28
   32
   28
   32
   Glucose
   118
   140
   148
   158
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.5 mg/dL
   Imaging: CXR- cont'd improvement of interstitial pattern and L
   effusion.
   Microbiology: pan cx ([**4-17**])- pending
   Sputum [**4-13**]- MRSA
   Assessment and Plan
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   1. Resp failure- likely due to Staph pna. Some underlying small airways
   disease on prior CT scan. Weaning has been limited by secretions and
   tachypnea/ hemodynamic instability on sedation hold.
   -cont diuresis for goal CVP 3-5, TBB another neg 1-2L
   -cont txing pna as below; given fever as below monitor for
   recrudescence
   -touch base w/ family about reintubation
   2. [**Name (NI) 13749**] unclear if an agitated delirium
   -add Zydis to regimen to hopefully wean anesthetic
   3. Fevers- monitor for ICU-related fever, no indication to broaden yet
   but will follow repeat pan-culture
   4. AAA- f/u on extubation
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-18**] 02:59 AM 70 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   84 yo man with MRSA  PNA, septic shock, respiratory failure.  Has been
   febrile, and failed SBT.
   Exam notable for mild rhoncherous BS b/l.  crackles audible
   anteriorly.  Patient sedated unresponsive.
   A/P
   Respiratory failure:  MRSA PNA.  Slowly improving.  Not unexpected that
   he is still febrile and recovering slowly.  However he is close to
   extubation.
   Fevers:  check urine cx and re-add GNR coverage as urine looks
   infected.
   Agitation:  added zyprexa in effort to remove propofol drip.
   Cc 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-18**] 13:08 ------

2153-04-19 10:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2153-4-18**] 04:00 PM
   - Started on Cefepime for continued fevers, worsening ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-19**] 04:01 AM
   Vancomycin - [**2153-4-19**] 07:43 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-4-18**] 04:13 PM
   Fentanyl - [**2153-4-18**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-19**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-19**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 97 (85 - 106) bpm
   BP: 119/52(75) {92/39(54) - 145/60(86)} mmHg
   RR: 40 (26 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 10 (1 - 10)mmHg
   Total In:
                                                                  3,420 mL
                                                                  1,629 mL
   PO:
   TF:
                                                                  1,534 mL
                                                                    716 mL
   IVF:
                                                                  1,287 mL
                                                                    663 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    920 mL
   Urine:
                                                                  2,880 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 21 cmH2O
   Plateau: 11 cmH2O
   Compliance: 115.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.50/43/90.[**Numeric Identifier 126**]/31/8
   Ve: 12.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, not following commands, sedated
   Labs / Radiology
   188 K/uL
   9.3 g/dL
   156 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.4 mEq/L
   36 mg/dL
   107 mEq/L
   143 mEq/L
   27.3 %
   9.0 K/uL
        [image002.jpg]
                             [**2153-4-17**]  09:36 AM
                             [**2153-4-17**]  12:00 PM
                             [**2153-4-17**]  12:08 PM
                             [**2153-4-17**]  06:00 PM
                             [**2153-4-18**]  03:18 AM
                             [**2153-4-18**]  03:50 AM
                             [**2153-4-18**]  02:52 PM
                             [**2153-4-18**]  06:36 PM
                             [**2153-4-19**]  05:03 AM
                             [**2153-4-19**]  05:11 AM
   WBC
   7.5
   9.0
   Hct
   29.5
   27.3
   Plt
   197
   188
   Cr
   0.9
   0.9
   0.8
   TCO2
   32
   28
   32
   32
   35
   Glucose
   140
   148
   158
   188
   156
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia.  Improving today, but
   not tolerating a spontaneous breathing trial.
   # Respiratory failure from Staph PNA:  Initially intubated for hypoxic
   respiratory failure, secondary to MRSA pneumonia. Has been diuresed
   well. However, has been very tachypneic in the 30s-40s on both AC and
   pressure support. Unlikely due to benzo withdrawal given that patient
   has been on propofol infusion. ?CNS etiology. ?pulmonary source: known
   pna vs. ?PE.
   - Continue abx as below
   - continue diuresis with furosemide 40mg IV x1
   - try standing quetiapine
   - LENIS
   # Pna: Cefepime was added back yesterday due to persistent fevers and
   respiratory instability.
   - continue vancomycin, cefepime
   # Persistent fevers: ?pna, ?abscess, ?PE.  Unclear etiology.
   - LENIS
   - consider CT scan if still spikes
   # Recent Hct drop: Stable now.
   - Daily Hcts
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continue to update family daily
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-19**] 07:17 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2153-04-19 10:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   24 Hour Events:
   febrile last night. transient hypotensive episode spontaneously
   resolved. started on cefepime overnight
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-19**] 04:01 AM
   Vancomycin - [**2153-4-19**] 07:43 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-4-18**] 04:13 PM
   Fentanyl - [**2153-4-18**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-19**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-19**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 102 (85 - 106) bpm
   BP: 100/50(68) {92/39(54) - 145/60(86)} mmHg
   RR: 42 (26 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 10 (1 - 10)mmHg
   Total In:
                                                                  3,420 mL
                                                                  1,680 mL
   PO:
   TF:
                                                                  1,534 mL
                                                                    751 mL
   IVF:
                                                                  1,287 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                  1,020 mL
   Urine:
                                                                  2,880 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 21 cmH2O
   Plateau: 11 cmH2O
   Compliance: 115.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.50/43/90.[**Numeric Identifier 126**]/31/8
   Ve: 12.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : laterally, Crackles : B
   ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   188 K/uL
   156 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.4 mEq/L
   36 mg/dL
   107 mEq/L
   143 mEq/L
   27.3 %
   9.0 K/uL
        [image002.jpg]
                             [**2153-4-17**]  09:36 AM
                             [**2153-4-17**]  12:00 PM
                             [**2153-4-17**]  12:08 PM
                             [**2153-4-17**]  06:00 PM
                             [**2153-4-18**]  03:18 AM
                             [**2153-4-18**]  03:50 AM
                             [**2153-4-18**]  02:52 PM
                             [**2153-4-18**]  06:36 PM
                             [**2153-4-19**]  05:03 AM
                             [**2153-4-19**]  05:11 AM
   WBC
   7.5
   9.0
   Hct
   29.5
   27.3
   Plt
   197
   188
   Cr
   0.9
   0.9
   0.8
   TCO2
   32
   28
   32
   32
   35
   Glucose
   140
   148
   158
   188
   156
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.4 mg/dL
   Imaging: CXR- no sig change
   Microbiology: Sputum- MRSA (vanco MIC < 0.5)
   Assessment and Plan
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   1. Resp failure- likely due to Staph pna. Some underlying small airways
   disease on prior CT scan. Weaning has been limited by secretions and
   tachypnea/ hemodynamic instability on sedation hold.
   -treat agitation and assoc tachypnea as below
   -cont diuresis for goal CVP 3-5, TBB another neg 1-2L
   -cont txing pna as below; given fever as below monitor for
   recrudescence
   -touch base w/ family about reintubation --> fam mtg tomorrow
   2. [**Name (NI) 13749**] unclear if an agitated delirium
   -add Seroquel to regimen
   -use fentanyl for pain
   3. Fevers- monitor for ICU-related fever. MRSA in sputum
   -will recheck vanco level and possibly up-dose today
   -consider CT torso
   -LENIs for asymmetric LE edema
   4. AAA- f/u on extubation
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-19**] 07:17 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   18 Gauge - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: plan to meet family tomorrow
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   84 yo man with severe MRSA PNA, respiratory failure, sepsis.  HOTNsive
   this morning in setting of diuresis.  CVP=2.
   Exam notable for thin, sedated, unresponsive gentlemen.
   Lungs: clear,  CV: reg:  Abd: soft.  Ext: no edema
   WBC 9.0
   A/P
   Respiratory failure:  On minimal support, but not ready yet to extubate
   Fevers;  Unclear source. Consider C. diff, abdominal process.  Will add
   flagyl to Vanco/cefipime for C. diff.  Get abd CT to r/o intrabdominal
   pathology.
   HOTN:  likely too hypovolemic in setting of fevers +/- sepsis.  Give
   IVF, pressors restarted.
   CC: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-19**] 14:00 ------

2153-04-20 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tachypneic persistently, unclear why, started seroquel (hmm...)
   - hypotensive to the 70s despite IVF - restarted levophed, got IVF,
   weaned off levophed after ~4 hours
   - recultured, broadened with cipro/IV flagyl/PO vanc (double cover
   pseudomonas, c diff coverage though no stools).  Vanc trough
   therapeutic.
   - d/w family and SW plans for 11:30 family meeting tomorrow ([**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 669**]
   will come), considering pulling back on care
   - LENI: negative
   - triglycerides (on propofol):200
   - CT chest/abdomen/torso: lungs look equally nasty (worse per PFI)
   compared to previous, no PE, no abscess
   - CT head: no acute pathology
   - on AC for the day back on PSV in the morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-19**] 08:00 PM
   Metronidazole - [**2153-4-20**] 12:00 AM
   Cefipime - [**2153-4-20**] 04:00 AM
   Ciprofloxacin - [**2153-4-20**] 06:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-19**] 11:00 AM
   Fentanyl - [**2153-4-19**] 12:21 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.5
C (97.7
   HR: 88 (73 - 119) bpm
   BP: 117/52(72) {69/41(51) - 160/68(102)} mmHg
   RR: 37 (27 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 272 (0 - 301)mmHg
   Total In:
                                                                  5,842 mL
                                                                  1,325 mL
   PO:
   TF:
                                                                  1,694 mL
                                                                    493 mL
   IVF:
                                                                  3,738 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    560 mL
   Urine:
                                                                  2,595 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,247 mL
                                                                    765 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 451 (450 - 451) mL
   Vt (Spontaneous): 545 (452 - 547) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 21 cmH2O
   Plateau: 11 cmH2O
   Compliance: 115.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/40/102/26/6
   Ve: 18 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, not following commands, sedated
   Labs / Radiology
   264 K/uL
   9.4 g/dL
   208 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-4-18**]  03:18 AM
                             [**2153-4-18**]  03:50 AM
                             [**2153-4-18**]  02:52 PM
                             [**2153-4-18**]  06:36 PM
                             [**2153-4-19**]  05:03 AM
                             [**2153-4-19**]  05:11 AM
                             [**2153-4-19**]  12:15 PM
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
   WBC
   7.5
   9.0
   11.2
   Hct
   29.5
   27.3
   28.1
   Plt
   197
   188
   264
   Cr
   0.9
   0.9
   0.8
   0.9
   1.0
   TCO2
   32
   32
   35
   32
   31
   Glucose
   158
   188
   156
   155
   208
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia and persistent
   respiratory failure.
   # Respiratory failure from Staph PNA:  Initially intubated for hypoxic
   respiratory failure, secondary to MRSA pneumonia. Has been diuresed
   well.  CT yesterday showed worsening infiltrates despite therapeutic
   vanc levels and diuresis. He has remained very tachypneic in the
   30s-40s on both AC and pressure support.  There seems to be a central
   component.  Pain and agitated delirium are likely at play.   No DVT to
   suggest PE.
   - Continue abx as below
   - start fentanyl gtt; titrate to comfort
   - continue standing quetiapine
   - re-address goals of ventilator management with family later today
   (previously indicated desire for no long-term ventilatory support)
   # Pna: currently on broad spectrum antibiotics, which were broadened
   further yesterday to double cover pseudomonas
   - continue vancomycin, cefepime, ciprofloxacin
   # Recent Hct drop: Stable now.
   - Daily Hcts
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continue to update family daily
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU

2153-04-20 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with respiratory failure, MRSA PNA, persistent fevers.
   Patient failured SBT this morning.  Tachypneic this morning despite
   increase level of support.  Was HOTNsive yesterday, and briefly on
   levophed which is now weaned down.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-19**] 08:00 PM
   Cefipime - [**2153-4-20**] 04:00 AM
   Ciprofloxacin - [**2153-4-20**] 06:00 AM
   Metronidazole - [**2153-4-20**] 08:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-19**] 11:00 AM
   Fentanyl - [**2153-4-19**] 12:21 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-20**] 08:56 AM
   Other medications:
   chlorhexidine
   prevacid
   seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-20**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 89 (73 - 119) bpm
   BP: 107/49(67) {69/41(51) - 160/68(102)} mmHg
   RR: 39 (27 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.7 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 272 (0 - 301)mmHg
   Total In:
                                                                  5,842 mL
                                                                  1,821 mL
   PO:
   TF:
                                                                  1,694 mL
                                                                    668 mL
   IVF:
                                                                  3,738 mL
                                                                    713 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    710 mL
   Urine:
                                                                  2,595 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,247 mL
                                                                  1,111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 451 (450 - 451) mL
   Vt (Spontaneous): 564 (452 - 564) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.52/37/91/26/6
   Ve: 17.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   264 K/uL
   208 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-4-18**]  03:50 AM
                             [**2153-4-18**]  02:52 PM
                             [**2153-4-18**]  06:36 PM
                             [**2153-4-19**]  05:03 AM
                             [**2153-4-19**]  05:11 AM
                             [**2153-4-19**]  12:15 PM
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
   WBC
   9.0
   11.2
   Hct
   27.3
   28.1
   Plt
   188
   264
   Cr
   0.9
   0.8
   0.9
   1.0
   TCO2
   32
   32
   35
   32
   31
   31
   Glucose
   188
   156
   155
   208
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Respiratory failure:  MRSA PNA.  Not able to extubated because of
   tachypnea.  likely multifactorial case including agitated delirium
   and persistent fevers.  Mechanically lungs have recovered.  Overall
   picture will still likely require a long recover period.
   Fevers: added additional antibiotics.  unclear source.  CT torso
   negative for occult source of infection.
   Pain control: start fentanyl  drip.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-20**] 03:32 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Family meeting with Dr. [**Last Name (STitle) 5199**] today and family.  State that he
   probably would not have wanted prolonged intubation.  He is currently
   day 7 of intubation, without indication that he will be able to come
   off in a day or two   Family states that they will probably opt for
   CMO, but wants some time and return later today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-20**] 14:50 ------

2153-04-21 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
F - [**2153-4-21**] 04:00 AM
   - family meeting: will plan for terminal extubation on [**4-21**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-21**] 12:00 AM
   Cefipime - [**2153-4-21**] 04:00 AM
   Ciprofloxacin - [**2153-4-21**] 04:00 AM
   Vancomycin - [**2153-4-21**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2153-4-20**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-21**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 76 (76 - 95) bpm
   BP: 125/52(75) {95/49(66) - 160/70(102)} mmHg
   RR: 17 (17 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.7 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 7 (6 - 241)mmHg
   Total In:
                                                                  4,336 mL
                                                                    768 mL
   PO:
   TF:
                                                                  1,699 mL
                                                                     52 mL
   IVF:
                                                                  1,728 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    530 mL
   Urine:
                                                                  1,600 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,736 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 657 (564 - 718) mL
   PS : 18 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.43/43/91.[**Numeric Identifier 143**]//3
   Ve: 15.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: intubated, sedated, doesn't open eyes to voice or follow commands
   HEENT: NCAT. Sclera anicteric. EOMI.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, not following commands, sedated
   Labs / Radiology
   264 K/uL
   9.4 g/dL
   208 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-4-18**]  06:36 PM
                             [**2153-4-19**]  05:03 AM
                             [**2153-4-19**]  05:11 AM
                             [**2153-4-19**]  12:15 PM
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
   WBC
   9.0
   11.2
   Hct
   27.3
   28.1
   Plt
   188
   264
   Cr
   0.8
   0.9
   1.0
   TCO2
   32
   35
   32
   31
   31
   32
   29
   Glucose
   156
   155
   208
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia and persistent
   respiratory failure.
   # Respiratory failure from Staph PNA:  Initially intubated for hypoxic
   respiratory failure, secondary to MRSA pneumonia. Has been diuresed
   well.  CT yesterday showed worsening infiltrates despite therapeutic
   vanc levels and diuresis. He has remained very tachypneic in the
   30s-40s on both AC and pressure support.  There seems to be a central
   component.  Pain and agitated delirium are likely at play.   No DVT to
   suggest PE.
   - Continue abx as below
   - start fentanyl gtt; titrate to comfort
   - continue standing quetiapine
   - re-address goals of ventilator management with family later today
   (previously indicated desire for no long-term ventilatory support)
   # Pna: currently on broad spectrum antibiotics, which were broadened
   further yesterday to double cover pseudomonas
   - continue vancomycin, cefepime, ciprofloxacin
   # Recent Hct drop: Stable now.
   - Daily Hcts
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, SC heparin
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continue to update family daily
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2153-04-21 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with respiratory failure, MRSA PNA, persistent fevers.
   Patient failed SBT on [**4-20**].  Off pressors for past 1-2 days.  Family
   meeting held, decision made to extubate today and not reintubate.  Make
   CMO if he does not do well.
   24 Hour Events:
 FEVER - 101.7
F - [**2153-4-21**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-21**] 04:00 AM
   Ciprofloxacin - [**2153-4-21**] 04:00 AM
   Vancomycin - [**2153-4-21**] 04:00 AM
   Metronidazole - [**2153-4-21**] 07:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   propofol
   Other ICU medications:
   Fentanyl - [**2153-4-20**] 04:00 PM
   Lansoprazole (Prevacid) - [**2153-4-21**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-21**] 07:42 AM
   chlorhexidine
   Other medications:
   Colace
   seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 79 (76 - 95) bpm
   BP: 112/48(68) {95/48(66) - 160/70(102)} mmHg
   RR: 20 (17 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.7 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 5 (5 - 241)mmHg
   Total In:
                                                                  4,336 mL
                                                                    949 mL
   PO:
   TF:
                                                                  1,699 mL
                                                                     52 mL
   IVF:
                                                                  1,728 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    595 mL
   Urine:
                                                                  1,600 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,736 mL
                                                                    354 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 657 (564 - 718) mL
   PS : 18 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: 7.43/43/91
   Ve: 15.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: intubated, sedated but awakens and answers yes/no questions
   HEENT:PERRL
   CV:RRR, no m/r/g
   PULM:CTA bilat
   ABD:soft, NTND
   EXTREM:no edema
   NEURO: alert, answers questions
   Labs / Radiology
   9.4 g/dL
   264 K/uL
   208 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-4-18**]  06:36 PM
                             [**2153-4-19**]  05:03 AM
                             [**2153-4-19**]  05:11 AM
                             [**2153-4-19**]  12:15 PM
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
   WBC
   9.0
   11.2
   Hct
   27.3
   28.1
   Plt
   188
   264
   Cr
   0.8
   0.9
   1.0
   TCO2
   32
   35
   32
   31
   31
   32
   29
   Glucose
   156
   155
   208
   Other labs: PT / PTT / INR:12.2/36.4/1.0, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan: MRSA pneumonia, continuing to need mechanical
   ventilation.
   Respiratory failure:  MRSA PNA.  Not able to extubated because of
   tachypnea.  likely multifactorial case including agitated delirium and
   persistent fevers.  Mechanically lungs have recovered.  Overall picture
   will still likely require a long recover period, but looking better
   today, doing well on PSV.  Failed SBT overnight.
   -try to hold sedation and discuss plan with patient regarding plan of
   extubation and whether or not he wants to be reintubated if he fails.
   Will do this with family there.
   Fevers: added additional antibiotics.  unclear source.  CT torso
   negative for occult source of infection.
   Pain control: on fentanyl  drip.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Arterial Line - [**2153-4-13**] 10:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: chlorhexidine, HOB 30 degrees
   Comments:
   Communication:  plan was to extubated today, but will clarify plan with
   patient and family prior to doing this so it is clear whether or not
   patient wants to be reintubated if he fails.  Family coming today
   Code status: DNR
   Disposition :ICU
   Total time spent: 30 min

2153-04-22 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-4-21**] 11:14 AM
   - Patient awake, decided not to be extubated yet
   - 1 episode of anxiety o/n improved with ativan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-22**] 12:00 AM
   Cefipime - [**2153-4-22**] 04:00 AM
   Ciprofloxacin - [**2153-4-22**] 04:00 AM
   Vancomycin - [**2153-4-22**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2153-4-21**] 03:19 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-22**] 12:00 AM
   Lorazepam (Ativan) - [**2153-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-22**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 78 (69 - 88) bpm
   BP: 137/56(73) {108/43(58) - 138/68(82)} mmHg
   RR: 31 (21 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.7 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 4 (2 - 6)mmHg
   Total In:
                                                                  2,833 mL
                                                                  1,208 mL
   PO:
   TF:
                                                                    625 mL
                                                                    565 mL
   IVF:
                                                                  1,813 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    490 mL
   Urine:
                                                                  1,850 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (466 - 563) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.46/38/95.[**Numeric Identifier 218**]/27/2
   Ve: 17.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: intubated, sedated, open eyes to voice & follow commands
   HEENT: NCAT. Sclera anicteric. EOMI.
   Neck: JVP flat, RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: no edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, not following commands, sedated
   Labs / Radiology
   379 K/uL
   9.0 g/dL
   170 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   34 mg/dL
   109 mEq/L
   142 mEq/L
   28.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2153-4-19**]  05:11 AM
                             [**2153-4-19**]  12:15 PM
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
   WBC
   11.2
   10.9
   Hct
   28.1
   28.4
   Plt
   264
   379
   Cr
   0.9
   1.0
   0.8
   TCO2
   35
   32
   31
   31
   32
   29
   28
   Glucose
   155
   208
   170
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia and persistent
   respiratory failure.
   # Respiratory failure from Staph PNA:  Initially intubated for hypoxic
   respiratory failure, secondary to MRSA pneumonia. Has been diuresed
   well.  CT showed worsening infiltrates despite therapeutic vanc levels
   and diuresis. He has remained very tachypneic in the 30s-40s on both AC
   and pressure support, but things improved yesterday and patient more
   awake.  Now awake but very tachypneic, seems to be [**3-20**] anxiety.
   Although terminal extubation had been considered, given recent
   apparently improvement family would like to continue current management
   .
   - Continue abx as below
   - stop fentanyl gtt; start boluses
   - Ativan boluses PRN to improve RR and anxiety, plan to decrease PEEP
   as tolerated
   - continue standing quetiapine
   # Pna: currently on broad spectrum antibiotics, which were broadened
   further yesterday to double cover pseudomonas
   - continue vancomycin, cefepime, ciprofloxacin
   - vanc level in AM
   # Recent Hct drop: Stable now.
   - Daily Hcts
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, boots
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continue to update family daily
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU

2153-04-22 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 84 yo man with respiratory failure, MRSA PNA, persistent fevers.
   Patient failed SBT on [**4-20**].  Off pressors for past 2 days.  Family had
   been prepared to make him CMO, but now improving, so remains intubated,
   improving respiratory and mental status.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-4-21**] 11:14 AM
   -some anxiety overnight, treated effectively with ativan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-22**] 12:00 AM
   Cefepime - [**2153-4-22**] 04:00 AM
   Ciprofloxacin - [**2153-4-22**] 04:00 AM
   Vancomycin - [**2153-4-22**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   propofol
   Other ICU medications:
   Fentanyl  off- [**2153-4-21**] 03:19 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-22**] 12:00 AM
   Lorazepam (Ativan) - [**2153-4-22**] 12:00 AM
   Chlorhexidine
   Lansoprazole
   Seroquel 25mg TID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-22**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 78 (69 - 88) bpm
   BP: 137/56(73) {108/43(58) - 138/68(82)} mmHg
   RR: 31 (21 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.7 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 4 (2 - 6)mmHg
   Total In:
                                                                  2,833 mL
                                                                  1,208 mL
   PO:
   TF:
                                                                    625 mL
                                                                    565 mL
   IVF:
                                                                  1,813 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    490 mL
   Urine:
                                                                  1,850 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (466 - 563) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.46/38/95.[**Numeric Identifier 218**]/27/2
   Ve: 17.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen:intubated, somewhat tachypnic.  Able to answer questions
   HEENT: PERRL, anicteric
   CV: RRR, no m/r/g
   PULM: CTA bilat
   Abd:soft, NTND
   Extrem: 1+ edema bilat LE
   Skin:no rash
   Neuro:sedated bu arousable. Answers questions
   Labs / Radiology
   9.0 g/dL
   379 K/uL
   170 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   34 mg/dL
   109 mEq/L
   142 mEq/L
   28.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2153-4-19**]  05:11 AM
                             [**2153-4-19**]  12:15 PM
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
   WBC
   11.2
   10.9
   Hct
   28.1
   28.4
   Plt
   264
   379
   Cr
   0.9
   1.0
   0.8
   TCO2
   35
   32
   31
   31
   32
   29
   28
   Glucose
   155
   208
   170
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan: 84 year old man admitted with MRSA PNA and resp
   failure, now slowly improving
   Respiratory failure:  MRSA PNA.  Not able to extubated because of
   tachypnea.  likely multifactorial case including agitated delirium and
   persistent fevers.  Mechanically lungs have recovered.  Overall picture
   will still likely require a long recover period, but looking better
   today, doing well on PSV 10/5
   Plan d/w patient and family, will continue with current level of
   support through w/e with plan to attempt extubation in the next 48
   hours.
   Sedation: trying to wean to facilitate extubation.  Changing fentanyl
   to prn, and weaning propofol, using prn ativan for anxiety (pt endorses
   anxiety).
   Fevers: added additional antibiotics.  Sputum cxs showed MRSA
   pneumonia, but continuing broad spectrum tx due to continued fevers on
   vanco alone.  Fever curve improving.  CT torso negative for occult
   source of infection.
   Pain control: changing to prn fentanyl
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-4-22**] 05:29 AM 70 mL/hour
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  PPI
   VAP: chlorhexidine, HOB 30 degrees
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent:  30 min

2153-04-23 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - persistently tachypneic, somewhat improved with morphine boluses
   - gave lasix 40 given persistent positive fluid status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-4-23**] 12:00 AM
   Cefipime - [**2153-4-23**] 04:00 AM
   Ciprofloxacin - [**2153-4-23**] 04:00 AM
   Vancomycin - [**2153-4-23**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-22**] 04:07 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-23**] 12:00 AM
   Fentanyl - [**2153-4-23**] 02:00 AM
   Lorazepam (Ativan) - [**2153-4-23**] 04:00 AM
   Morphine Sulfate - [**2153-4-23**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 80 (74 - 99) bpm
   BP: 128/55(72) {97/45(57) - 140/87(91)} mmHg
   RR: 30 (25 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.7 kg (admission): 84 kg
   Height: 69 Inch
             Total In:
                                                                  3,383 mL
                                                                  1,095 mL
   PO:
             TF:
                                                                  1,412 mL
                                                                    465 mL
   IVF:
                                                                  1,821 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                    545 mL
   Urine:
                                                                  3,515 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -132 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (359 - 562) mL
   PS : 14 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.45/40/92.[**Numeric Identifier 132**]/31/3
   Ve: 13.2 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   421 K/uL
   8.5 g/dL
   221 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   106 mEq/L
   140 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
                             [**2153-4-22**]  04:09 PM
                             [**2153-4-23**]  03:45 AM
   WBC
   11.2
   10.9
   11.0
   Hct
   28.1
   28.4
   25.6
   Plt
   [**Telephone/Fax (3) 13850**]
   Cr
   0.9
   1.0
   0.8
   0.8
   TCO2
   31
   31
   32
   29
   28
   29
   Glucose
   155
   208
   170
   221
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.5 mg/dL
   IMAGING [**2153-4-22**] PORTABLE CXR:
   Endotracheal tube terminates 2.6 cm above the carina. Nasogastric tube
   terminates in the stomach. Right IJ catheter terminates in the superior
   vena
   cava.
   Compared to the prior study, there is little change in the appearance
   of
   bilateral upper lobe pneumonia. There is also left lower lobe
   consolidation,
   unchanged. Heart and mediastinum are within normal limits.
   MICRO
   [**4-19**] BLOOD CX X 2: NGTD
   [**4-19**] URINE CX: NO GROWTH
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia and persistent
   respiratory failure.
   # Respiratory failure from Staph PNA:  Initially intubated for hypoxic
   respiratory failure, secondary to MRSA pneumonia. Has been diuresed
   well.  CT showed worsening infiltrates despite therapeutic vanc levels
   and diuresis. He has remained very tachypneic in the 30s-40s on both AC
   and pressure support, but things improved yesterday and patient more
   awake.  Now awake but very tachypneic, seems to be [**3-20**] anxiety.
   Although terminal extubation had been considered, given recent
   apparently improvement family would like to continue current management
   .
   - Continue abx as below
   - stop fentanyl gtt; start boluses
   - Ativan boluses PRN to improve RR and anxiety, plan to decrease PEEP
   as tolerated
   - continue standing quetiapine
   # Pna: currently on broad spectrum antibiotics, which were broadened
   further yesterday to double cover pseudomonas
   - continue vancomycin, cefepime, ciprofloxacin
   - vanc level in AM
   # Recent Hct drop: Stable now.
   - Daily Hcts
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, boots
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continue to update family daily
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2153-04-23 10:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe PNA.  On saturday was more awake, and decided
   against terminal extubation.  Has been relatively unchanged.   Still
   gets tachypneic intermittently.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-4-23**] 04:00 AM
   Ciprofloxacin - [**2153-4-23**] 04:00 AM
   Vancomycin - [**2153-4-23**] 04:00 AM
   Metronidazole - [**2153-4-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-22**] 04:07 PM
   Fentanyl - [**2153-4-23**] 02:00 AM
   Morphine Sulfate - [**2153-4-23**] 06:00 AM
   Lorazepam (Ativan) - [**2153-4-23**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-23**] 08:00 AM
   Other medications:
   chlorhexidine
   protonix
   propofol
   colace
   seroquel 25 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-23**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 80 (74 - 99) bpm
   BP: 123/53(69) {97/45(57) - 140/60(77)} mmHg
   RR: 32 (25 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 84 kg
   Height: 69 Inch
             Total In:
                                                                  3,383 mL
                                                                  1,267 mL
   PO:
             TF:
                                                                  1,412 mL
                                                                    465 mL
   IVF:
                                                                  1,821 mL
                                                                    682 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                    635 mL
   Urine:
                                                                  3,515 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -132 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 479 (359 - 562) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 173
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.45/40/92.[**Numeric Identifier 132**]/31/3
   Ve: 16.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   421 K/uL
   221 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   106 mEq/L
   140 mEq/L
   25.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2153-4-19**]  08:10 PM
                             [**2153-4-20**]  04:15 AM
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
                             [**2153-4-22**]  04:09 PM
                             [**2153-4-23**]  03:45 AM
   WBC
   11.2
   10.9
   11.0
   Hct
   28.1
   28.4
   25.6
   Plt
   [**Telephone/Fax (3) 13850**]
   Cr
   0.9
   1.0
   0.8
   0.8
   TCO2
   31
   31
   32
   29
   28
   29
   Glucose
   155
   208
   170
   221
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   Respiratory failure:  day 11 of ventilation.  Seems like he is close to
   extubation, generating good Vt, but tachypneic.  Likely a combination
   of high dead space and also anxiety/agitation.
   Place on scheduled morphine bolus.
   Agitation:  increased seroquel, continue ativan as he is chronic ativan
   user.
   fluid overload:  continue to diurese as he is very net positive.
   antibiotics:  can d/c C. diff treatment one he is negative for C.diff.
   can stop cipro as no Pseudomonal was cultured.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-04-24 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued the course; family meeting tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-4-23**] 04:00 AM
   Metronidazole - [**2153-4-24**] 12:00 AM
   Cefipime - [**2153-4-24**] 04:00 AM
   Vancomycin - [**2153-4-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-23**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-24**] 12:00 AM
   Lorazepam (Ativan) - [**2153-4-24**] 06:00 AM
   Morphine Sulfate - [**2153-4-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.9
   HR: 91 (80 - 99) bpm
   BP: 137/66(81) {109/51(59) - 148/75(90)} mmHg
   RR: 27 (22 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 84 kg
   Height: 69 Inch
    CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  2,576 mL
                                                                    390 mL
   PO:
   TF:
                                                                  1,415 mL
   IVF:
                                                                    982 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  4,242 mL
                                                                    753 mL
   Urine:
                                                                  4,242 mL
                                                                    753 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,666 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (342 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 11.4 L/min
   Physical Examination
   Gen: intubated, sedated, open eyes to voice & follow commands
   HEENT: NCAT. Sclera anicteric. EOMI.
   Neck:  RIJ in place
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: diffuse crackles.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: LLE 1+ pitting edema only to ankle, trace RLE edema
   Skin: No stasis dermatitis, ulcers, scars.
   Neuro: PERRL, alert and following commands
   Labs / Radiology
   564 K/uL
   8.8 g/dL
   142 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.7 mEq/L
   34 mg/dL
   107 mEq/L
   145 mEq/L
   26.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
                             [**2153-4-22**]  04:09 PM
                             [**2153-4-23**]  03:45 AM
                             [**2153-4-23**]  05:34 PM
                             [**2153-4-24**]  04:28 AM
   WBC
   10.9
   11.0
   12.6
   Hct
   28.4
   25.6
   27.7
   26.9
   Plt
   379
   421
   564
   Cr
   0.8
   0.8
   0.9
   0.8
   TCO2
   31
   31
   32
   29
   28
   29
   Glucose
   170
   221
   180
   142
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia and persistent
   respiratory failure.
   # Respiratory failure from Staph PNA:  continues to be tachypneic, high
   minute ventilation but normal PCO2 would infer large dead space
   ventilation.   Appears uncomfortable at times and anxiolytics and
   narcotic pain medication may be helpful.  He has become afebrile.
   -pain control with IV morphine 2mg q2 hours
   -anxiolytic: increase seroquel 50mg po Q8 hrs and prn ativan
   -continue abx for a 14 day course of vancomycin, change vancomycin
   dosing to
   -40mg IV lasix  with a goal I/O of negative 1 liter
   -p.m. K and Mg while diuresing
   # ID: as above, in addition will stop C diff treatment and stop cipro,
   continue vanc / cefepime.
   -continue PO vanc and IV flagyl
   # Constipation:
   -bowel regimen
   # Recent Hct drop: unclear reason.
   -p.m. hct
   -guaiac stools
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, boots
   CODE STATUS:  DNR/DNI, but OK to continue current ventilation for now,
   will continue to update family daily
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2153-04-24 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   24 Hour Events:
   no events.
   this am pt denies pain or sob.
   when questioned if he would want reintubation should extubation fails,
   he nodded yest twice reliably.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-4-23**] 04:00 AM
   Cefipime - [**2153-4-24**] 04:00 AM
   Metronidazole - [**2153-4-24**] 09:00 AM
   Vancomycin - [**2153-4-24**] 10:22 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-23**] 09:00 PM
   Morphine Sulfate - [**2153-4-24**] 06:00 AM
   Lansoprazole (Prevacid) - [**2153-4-24**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2153-4-24**] 08:45 AM
   Lorazepam (Ativan) - [**2153-4-24**] 09:00 AM
   Other medications:
   Seroquel, po vanvo, Hep sc, MSO4, Ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-24**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 84 (83 - 99) bpm
   BP: 131/57(75) {109/49(59) - 148/75(90)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 84 kg
   Height: 69 Inch
   CVP: 5 (-2 - 12)mmHg
   Total In:
                                                                  2,576 mL
                                                                    649 mL
   PO:
   TF:
                                                                  1,415 mL
   IVF:
                                                                    982 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  4,242 mL
                                                                  1,023 mL
   Urine:
                                                                  4,242 mL
                                                                  1,023 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,666 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 535) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   564 K/uL
   142 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.7 mEq/L
   34 mg/dL
   107 mEq/L
   145 mEq/L
   26.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2153-4-20**]  05:05 AM
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
                             [**2153-4-22**]  04:09 PM
                             [**2153-4-23**]  03:45 AM
                             [**2153-4-23**]  05:34 PM
                             [**2153-4-24**]  04:28 AM
   WBC
   10.9
   11.0
   12.6
   Hct
   28.4
   25.6
   27.7
   26.9
   Plt
   379
   421
   564
   Cr
   0.8
   0.8
   0.9
   0.8
   TCO2
   31
   31
   32
   29
   28
   29
   Glucose
   170
   221
   180
   142
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.5 g/dL, LDH:280 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Imaging: none
   Microbiology: no new data
   Assessment and Plan
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   1. Resp failure- likely due to Staph pna. Some underlying small airways
   disease on prior CT scan. Extubation had been limited by tachpnea which
   is likely due to anxiety and pain
   -treat agitation w/ sched Ativan and MSO4
   -cont vanco + cefepime today; plan to dc tomorrow if no change/ cx data
   -cont gentle diuresis, goal TBB even to slight neg
   2. AAA- f/u on extubation
   3. Goals of care- may need to reverse code status based on patient's
   wishes; readdress based on pt's wishes to be clarified post-extubation
   ICU Care
   Nutrition:
   Comments: tube feeds are held
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: to meet w/ family today at 1pm
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   84 yo man with MRSA PNA and respiratory failure.  Has been recently
   improving.  Tolerating minimal vent support.  Is awake, alert, answers
   questions.   Family meeting held.  And patient subsequently extubated
   and doing well.
   o/e  lungs with mild rhonch, CV reg. abd soft.  No edema.
   A/P
   Respiratory failure: extubated and looks good.
   Final day of antibiotics today.
   CC 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-24**] 15:29 ------

2153-04-25 09:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2153-4-24**] 01:29 PM
 STOOL CULTURE - At [**2153-4-25**] 04:15 AM
   - extubated successfully
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-4-23**] 04:00 AM
   Vancomycin - [**2153-4-24**] 11:29 PM
   Cefipime - [**2153-4-25**] 04:15 AM
   Metronidazole - [**2153-4-25**] 08:24 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2153-4-24**] 11:00 AM
   Lorazepam (Ativan) - [**2153-4-24**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-25**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-25**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 91 (76 - 123) bpm
   BP: 131/58(75) {108/34(63) - 177/105(140)} mmHg
   RR: 27 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 84 kg
   Height: 69 Inch
             Total In:
                                                                  1,380 mL
                                                                    398 mL
   PO:
             TF:
   IVF:
                                                                  1,140 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  1,588 mL
                                                                    740 mL
   Urine:
                                                                  1,588 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -208 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 0 (0 - 498) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: ////
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   610 K/uL
   8.2 g/dL
   140 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   29 mg/dL
   106 mEq/L
   142 mEq/L
   24.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
                             [**2153-4-22**]  04:09 PM
                             [**2153-4-23**]  03:45 AM
                             [**2153-4-23**]  05:34 PM
                             [**2153-4-24**]  04:28 AM
                             [**2153-4-25**]  03:12 AM
   WBC
   10.9
   11.0
   12.6
   11.1
   Hct
   28.4
   25.6
   27.7
   26.9
   24.9
   Plt
   379
   421
   564
   610
   Cr
   0.8
   0.8
   0.9
   0.8
   0.7
   TCO2
   31
   32
   29
   28
   29
   Glucose
   170
   221
   180
   142
   140
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.3 g/dL, LDH:280 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   An 84 year-old man presents with Staph pneumonia and persistent
   respiratory failure.
   # Respiratory failure from Staph PNA:  doing better on pressure
   support, appearing comfortably. Has been febrile with stable
   hemodynamics. Patient does want re-intubation if needed.
   -continue pain control with IV morphine 2mg q2 hours
   -cotninue anxiolytics; continue quetiapine 25mg po Q8hrs
   -continue vanco and cefepime for one more day
   -keep I/O even
   -extubate today
   # Constipation:
   -bowel regimen
   # Hyperlipidemia
   - holding atorvastatin while acutely ill
   # AAA:  3 cm, newly discovered, seen by vascular in ED
   - per vascular, will need repeat US in 6 months
   FEN: continue TF, replete lytes prn
   PPX: PPI per home regimen, hep SC
   CODE STATUS:  FULL
   CONTACT: [**Name (NI) **] [**Name (NI) 2475**], HCP [**Telephone/Fax (1) 13666**], ICU consent signed
   DISPO:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2153-04-25 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   24 Hour Events:
   somewhat confused on exam but denies complaints.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-4-23**] 04:00 AM
   Vancomycin - [**2153-4-24**] 11:29 PM
   Cefipime - [**2153-4-25**] 04:15 AM
   Metronidazole - [**2153-4-25**] 08:24 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2153-4-24**] 11:00 AM
   Lorazepam (Ativan) - [**2153-4-24**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2153-4-25**] 08:25 AM
   Other medications:
   Colace, Cefepime, Vanco, Seroquel, Flagyl, Vanco PO, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-25**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 91 (76 - 123) bpm
   BP: 131/58(75) {108/34(63) - 177/105(140)} mmHg
   RR: 27 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 84 kg
   Height: 69 Inch
             Total In:
                                                                  1,380 mL
                                                                    398 mL
   PO:
             TF:
   IVF:
                                                                  1,140 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  1,588 mL
                                                                    740 mL
   Urine:
                                                                  1,588 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -208 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 0 (0 - 498) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: ////
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name and year only, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   610 K/uL
   140 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   29 mg/dL
   106 mEq/L
   142 mEq/L
   24.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2153-4-20**]  09:06 AM
                             [**2153-4-20**]  09:40 PM
                             [**2153-4-21**]  02:17 AM
                             [**2153-4-21**]  11:15 AM
                             [**2153-4-22**]  06:39 AM
                             [**2153-4-22**]  04:09 PM
                             [**2153-4-23**]  03:45 AM
                             [**2153-4-23**]  05:34 PM
                             [**2153-4-24**]  04:28 AM
                             [**2153-4-25**]  03:12 AM
   WBC
   10.9
   11.0
   12.6
   11.1
   Hct
   28.4
   25.6
   27.7
   26.9
   24.9
   Plt
   379
   421
   564
   610
   Cr
   0.8
   0.8
   0.9
   0.8
   0.7
   TCO2
   31
   32
   29
   28
   29
   Glucose
   170
   221
   180
   142
   140
   Other labs: PT / PTT / INR:12.8/26.5/1.1, ALT / AST:16/24, Alk Phos / T
   Bili:62/0.5, Amylase / Lipase:42/14, Differential-Neuts:52.0 %,
   Band:18.0 %, Lymph:22.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, Albumin:2.3 g/dL, LDH:280 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Microbiology: C diff pending
   Assessment and Plan
   84yo male admitted w/ septic shock and resp failure due to probable
   Staph pna.
   1. Resp failure- likely due to Staph pna. Some underlying small airways
   disease on prior CT scan. extubated yest successfully
   -dc ABX today and monitor
   -needs aggressive pulm toilet given poor cough and limited mobility -->
   nasotracheal suctioning q shift and get OOB today
   2. AAA-once clinically stabilized will need to be evaluated further
   3. FEN- npo till S&S
   4. Code status- reversed to FULL based on discussion with patient and
   family yesterday
   -PT/OT today
   -HOB up
   ICU Care
   Nutrition:
   Comments: npo for now pending S&S
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2153-4-13**] 07:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   84 yo man with MRSA PNA, and respiratory failure.  Extubated today and
   doing well.
   Exam:  Patient awake,  alert.  Asking questions.   Oriented to name
   only.  Lung exam with b/l rhonchi.   Abd: soft, ext no edema.
   A/P
   MRSA PNA:  improved.  Still has poor cough so continue pulmonary
   toilette.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2153-4-25**] 13:20 ------